US06103894
In another preferred embodiment, isomaltulose is hydrogenated. The composition of the reaction product here has a different composition than is expected from a conventional process, where about 50 wt.-% 1,1-GPM and 50 wt.-% 1,6-GPS are generated. The reaction product has a larger 1,1-GPM fraction and a smaller 1,6-GPS fraction. Advantageously, the process of the invention can also be used for hydrogenating trehalulose to 1,1-GPM and 1-0-α-D-glocupyranosil-D-sorbite (1,1-GPS), lactulose to lactite and 3-0-β-D-glucopyranosil-D-mannite, maltulose to 3-0-α-D-glucopyranosil-D-mannite and 4-0-α-D-glucopyranosil-D-sorbite (maltite), and leucrose to 5-0-α-D-glucopyranosil-D-sorbite (1,5-GPS) and 2-0-α-D-glocupyranosil-D-mannite (1,2-GPM). Advantageously, the product has a relatively higher 1,1-GPM fraction in the case of trehalulose, a relatively higher 3-0-α-D-glucopyranosil-D-mannite fraction in the case of maltulose, and a relatively higher 3-0-β-D-glucopyranosil-D-mannite fraction in the case of lactulose. When the aforedescribed glucopyranosil-substituted ketoses are hydrogenated, the invention thus produces an larger mannite epimer fraction and a smaller sorbite epimer fraction in the product.

reactant | isomaltulose | C([C@@H]1[C@H]([C@@H]([C@H]([C@H](O1)OC[C@@H]2[C@H]([C@@H](C(O2)(CO)O)O)O)O)O)O)O | C12H22O11
reactant | trehalulose | C([C@@H]1[C@H]([C@@H]([C@H]([C@H](O1)OCC(=O)[C@H]([C@@H]([C@@H](CO)O)O)O)O)O)O)O | C12H22O11
reactant | lactulose | C([C@@H]1[C@@H]([C@@H]([C@H]([C@@H](O1)O[C@@H]2[C@H](O[C@@]([C@H]2O)(CO)O)CO)O)O)O)O.O
reactant | maltulose | C([C@@H]1[C@H]([C@@H]([C@H]([C@H](O1)O[C@H]([C@@H](CO)O)[C@@H](C(=O)CO)O)O)O)O)O | C12H22O11
reactant | leucrose | C([C@@H]1[C@H]([C@@H]([C@H]([C@H](O1)O[C@H](CO)[C@H]([C@@H](C(=O)CO)O)O)O)O)O)O | C12H22O11
product | mannite | C([C@H]([C@H]([C@@H]([C@@H](CO)O)O)O)O)O | C6H14O6
